US08076285B2
N-[(9H-Fluoren-9-ylmethoxy)carbonyl]glycyl-L-serine
1 g (0.62 mmol) of a Wang resin (Merck Biosciences; loading: 0.62 mmol/g) preloaded with O-tert.-butyl-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-serine is treated twice in succession with piperidine as follows: the resin is mixed with 10 ml of a 20% piperidine solution in dimethylformamide, shaken for 30 min and collected by suction filtration. The resin obtained in this way is provided in 10 ml of dimethylformamide, and 369 mg (1.24 mmol) of N-[(9H-fluoren-9-ylmethoxy)carbonyl]glycine, 398 mg (1.24 mmol) of N-[(1H-benzotriazol-1-yloxy)(dimethyl-amino)methylene]-N-methylmethanaminium tetrafluoroborate (TBTU) and 240 mg (1.86 mmol) of N-ethyl-N-isopropylpropan-2-amine (DIEA) are added. The mixture is shaken at RT overnight. The solid is collected by suction filtration, washed three times each with 10 ml of dimethylformamide, methanol and dichloromethane and collected by suction filtration. 20 ml of a 50% trifluoroacetic acid solution in dichloromethane are added and left to act for 60 min, the resin is removed by filtration on a frit and the resin is washed three times with 10 ml of dichloromethane. The filtrate is concentrated and the target compound is obtained as crude product.

reactant | O-tert.-butyl-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-serine | C(C)(C)(C)OC[C@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C22H25NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | N-[(9H-fluoren-9-ylmethoxy)carbonyl]glycine | 1.24 mmol, 369 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)O | C17H15NO4
reactant | N-[(1H-benzotriazol-1-yloxy)(dimethyl-amino)methylene]-N-methylmethanaminium tetrafluoroborate | 1.24 mmol, 398 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.86 mmol, 240 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[(9H-Fluoren-9-ylmethoxy)carbonyl]glycyl-L-serine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NCC(=O)N[C@@H](CO)C(=O)O | C20H20N2O6
